US06936607B2
2-(4-BENZYL-1-PIPERAZINYL)-N-(3,4-DICHLOROPHENYL)-6-(1,4-DIOXA-8-AZASPIRO[4.5]DEC-8-YL)-4-PYRIMIDINAMINE:
A mixture of 3,4-dichloroaniline (1.7 g, 10.5 mmol) and NaH (0.50 g, 20.9 mmol) in tetrahydrofuran (20 mL) was heated at reflux for 30 minutes and then cooled to room temperature. A solution of 8-[2-(4-benzyl-1-piperazinyl)-6-chloro-4-pyrimidinyl]-1,4-dioxa-8-azaspiro[4.5]decane (3.0 g, 7.0 mmol) in tetrahydrofuran (30 mL) was added to this mixture and the resulting solution was stirred for 22.5 hours. The reaction mixture was quenched with saturated NH4Cl, concentrated under reduced pressure, and redissolved in EtOAc. The organic layer was separated and washed with aqueous citric acid (2×300 mL), water (2×300 mL), and brine (2×300 mL). The crude product was purified by column chromatography [eluent: EtOAc/hexane (1:4)], giving the desired product (1.7 g, 44%).

reactant | 3,4-dichloroaniline | 10.5 mmol, 1.7 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | NaH | 20.9 mmol, 0.50 g | [H-].[Na+]
reactant | 8-[2-(4-benzyl-1-piperazinyl)-6-chloro-4-pyrimidinyl]-1,4-dioxa-8-azaspiro[4.5]decane | 7.0 mmol, 3.0 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)N1CCC2(OCCO2)CC1)Cl | C22H28ClN5O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(4-BENZYL-1-PIPERAZINYL)-N-(3,4-DICHLOROPHENYL)-6-(1,4-DIOXA-8-AZASPIRO[4.5]DEC-8-YL)-4-PYRIMIDINAMINE | 1.7 g, 44% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)NC1=CC(=C(C=C1)Cl)Cl)N1CCC2(OCCO2)CC1 | C28H32Cl2N6O2
